Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ yo M with history of non-ischemic cardiomyopathy 
and CKD who is being transferred from ___ for 
ongoing fevers, C.diff infection, and transaminitis.

The patient was recently bitten by a dog and cat on his finger 
on ___, resulting in cellulitis. He started cefuroxime on ___ 
but stopped it after 2 days due to diarrhea. He again saw his 
PCP ___ ___ and was given IM ceftriaxone hen given bactrim, but 
again only took it for a few days due to diarrhea.  He was 
hospitalized at ___ ___ for worsening cellulitis of the 
hand. Xray was negative for osteomyelitis. He was evaluated by 
hand surgery and it was felt he did not need surgical 
intervention. He was initially placed on Unasyn, and all 
cultures remained negative, including the culture of the 
expressed fluid from the hand. He was transitioned to 
moxifloxacin before discharge. During this hospital stay he 
developed c. diff; he was initially started on flagyl which was 
transitioned to PO vancomycin.  He was discharged on ___ on 
moxifloxacin and PO vancomycin. Of note his ESR and CRP were 
elevated this admission, 92 and 222 respectively.  

He was then re-admitted to ___ on ___ with 
weakness, decreased PO intake, and decreased urine ouptut. Per 
his wife he was well after discharge for a few days, then became 
weak with difficulty ambulating and poor oral intake. He had no 
UOP for 48 hours prior to admission. On admission he had ___, 
fevers, and hypoxia. Siginificant labs on admission included 
creatinine of 3.1 (baseline 1.4-1.7), WBC 15.3, hct 34.3, and 
procalcitonin 0.2. He initially was continued on IV moxifloxacin 
and PO vancomycin. 

Renal consulted, and thought his ___ was due to ATN. Losartan 
was held at admission. Lasix was initially held but was 
restarted before discharge. He had urinary retention requiring 
foley placement. For evaluation of hypoxia, chest CT scan showed 
pleural effusions. BNP normal. Echocardiogram showed EF 40-45%, 
no change from prior. ___ dopplers were negative and V/Q scan was 
intermediate. Pulmonary consulted, and thought he had low 
likelihood for PE and thus he was not started on 
anticoagulation. The ___ hospital course was also 
complicated by transaminits, checked the day of transfer and 
elevated from admission labs, of unclear etiology. His statin 
was stopped and abd US was unremarkable. 

During his hospital stay he had daily fevers up to 101.3. With 
his first fever, he was given a dose of vancomycin in addition 
to the moxifloxacin, but none since. CT chest showed small 
pleural effusions but nothing concerning for infection. CT 
abdomen/pelvis was negative for infectious source. MRI spine 
without contrast revealed mild prevertebral swelling without 
discitis, osteomyelitis or abscess.  TTE without vegetations. 
Blood and urine cultures were negative. ID consulted at ___, 
and recommended stopping all abx besides PO vancomycin. He 
received his last dose of IV moxifloxacin on ___.

Of note, the patient's ESR and CRP were more elevated this 
admission, 120 and 263 respectively. His ___ was positive at 
1:320 in a mixed pattern--speckled and homogenous. ANCA pending. 
RF negative.

On the floor, he states that he overall feels well. He is having 
chills, but his dyspnea is at baseline. Diarrhea has improved 
substantially since starting the oral vancomycin. He failed a 
voiding trial on admission, with bladder scan revealing 900mL of 
fluid in his bladder. Foley was placed. He was confused on 
arrival. 

At the time of discharge, all Cx have remained negative, still 
no source of infection has surfaced, and the patient has been 
afebrile and otherwise stable for 4 days. He no longer has had 
episodes of diarrhea, and remains on PO Vanco until ___. He 
did have hypoxia with O2 requirement which resolved with one 
dose of Lasix 20 mg IV 24 hrs prior to discharge. The patient 
was evaluated and treated by physical therapy prior to discharge 
and was cleared to return to home with a walker and with his 
wife agreeing to take care of him.
 
Past Medical History:
Seizures, remote history, not on medications
Hypothyroidism
Non-ischemic hypertensive cardiomyopathy
Gout
HTN
CKD stage III due to hypertension
Sleep apnea
COPD
Depression
DMII
 
Social History:
___
Family History:
No history of autoimmune diseases

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 100 tm 103PR 141/79 74 19 88%RA 92%1.5L.
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP 1 cm above clavicle at 90 degrees, no LAD  
Lungs: Decreased breath sounds at the bases
CV: irregular rhythm, normal S1 + S2, no murmurs, rubs, gallops  

Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, 1+ pedal edema 
Skin: no ___ nodes, ___ lesions, splinter hemorrhages, 
left hand there are two small eschars on the ___ and ___ finges. 
___ finger swollen with inability to bend. No pain in any of the 
digits. 
Neuro: CN ___ intact, ___ strength in upper and lower 
extremities, sensation intact

DISCHARGE PHYSICAL EXAM:
Vitals: T 98  70 ___ 94%RA
General: Alert, oriented, no acute distress     
Lungs: CTAB
CV: Irregular rhythm, normal S1 + S2, no murmurs, rubs, gallops  

Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses 
Skin: Left hand there are two small eschars on the ___ and ___ 
finges. No pain in any of the digits. 
Neuro: CN ___ intact, strength slightly reduced in Left hand

 
Pertinent Results:
ADMIT LABS:
___ 06:59AM BLOOD WBC-14.1* RBC-3.36* Hgb-9.8* Hct-29.7* 
MCV-88 MCH-29.2 MCHC-33.0 RDW-14.5 RDWSD-46.6* Plt Ct-UNABLE TO 
___ 06:59AM BLOOD Neuts-93* Bands-1 Lymphs-5* Monos-0 Eos-0 
Baso-0 ___ Myelos-1* AbsNeut-13.25 AbsLymp-0.71 
AbsMono-0.00 AbsEos-0.00 AbsBaso-0.00
___ 06:59AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 06:59AM BLOOD ___ PTT-31.8 ___
___ 06:59AM BLOOD Glucose-124* UreaN-28* Creat-1.7* Na-132* 
K-4.2 Cl-100 HCO3-19* AnGap-17
___ 06:59AM BLOOD ALT-177* AST-93* LD(LDH)-224 AlkPhos-265* 
TotBili-0.8
___ 06:59AM BLOOD Albumin-2.7* Calcium-8.5 Phos-4.4 Mg-2.0
___ 06:59AM BLOOD CRP-267.9*
___ 09:30PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 09:30PM URINE RBC-47* WBC-8* Bacteri-FEW Yeast-NONE 
Epi-0

Discharge Labs:

___ 06:28AM BLOOD WBC-11.7* RBC-3.52* Hgb-10.0* Hct-31.6* 
MCV-90 MCH-28.4 MCHC-31.6* RDW-15.1 RDWSD-48.7* Plt ___
___ 06:22AM BLOOD Neuts-81* Bands-2 Lymphs-6* Monos-3* 
Eos-6 Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-11.37 
AbsLymp-1.10 AbsMono-0.41 AbsEos-0.82 AbsBaso-0.00
___ 06:22AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 06:28AM BLOOD Plt ___
___ 06:28AM BLOOD Glucose-98 UreaN-22* Creat-1.5* Na-136 
K-4.4 Cl-100 HCO3-26 AnGap-14
___ 06:28AM BLOOD ALT-110* AST-49* AlkPhos-187* TotBili-0.4
___ 06:28AM BLOOD Calcium-9.0 Phos-4.2 Mg-1.9
___ 07:50AM BLOOD Ferritn-784*
___ 07:50AM BLOOD CRP-72.3*
___ 07:33AM BLOOD CRP-95.0*
___ 06:22AM BLOOD dsDNA-NEGATIVE
___ 06:22AM BLOOD Anti-Tg-20 Thyrogl-LESS THAN  antiTPO-22
___ 06:59AM BLOOD CRP-267.9*
___ 09:50AM BLOOD HIV Ab-NEGATIVE
___ 06:22AM BLOOD SM ANTIBODY-negative    
___ 06:22AM BLOOD RO & LA-negative      
___ 06:22AM BLOOD RNP ANTIBODY-negative      
___ 09:50AM BLOOD QUANTIFERON-TB GOLD-negative     
 
Brief Hospital Course:
 This is a ___ yo M with history of non-ischemic cardiomyopathy 
and CKD who is being transferred from ___ for 
ongoing fevers, C.diff infection, and transaminitis.  

# Fevers:  Fevers up to 105 PR on admit. Unclear etiology. All 
blood cultures at ___ and ___ negative. No antibiotics 
given here at ___. Thought initially to be related to cat or 
dog bite on left hand month prior to admission. Differential 
included HACEK or bartonella endocarditis, left hand osteo. Left 
___ digit swollen on admission but improved per patient since IV 
antibiotics at ___. MRI done here showed no signs 
of osteo. CT abdomen negative for abscess. Bartonella, Lyme, Hep 
panel negative at ___. ID was consulted and 
recommended systematic imaging workup. However, patient's fevers 
resolved without intervention on day 2 of hospital stay, so 
workup was halted. Rheumatology was also consulted given a 1:320 
___ (homogenous and speckled pattern) and recommended an 
antibiody panel. Results for all rheumatologic tests were 
negative (attached).  ___ labs showed negative RF, ANCA. 
Also on differential for these fevers that quickly came on and 
resolved was aspiration pneumonitis, given ground glass 
opacities seen on CT. Pt remained afebrile and asymptomatic 
throughout the last four days before discharge. Only question 
was small bump in ___ on last day to 11.7 from 9.8, but not too 
concerning considering resolved clinical status.

#  C.diff: Diarrhea improving on transfer to ___, already on 
PO vanc. PO Vanc 125 q6h x 2 weeks since last antibiotic (last 
day of vanc ___.
 
#  Hypoxia: Was on 4LNC on admit and O2 requirement slowly 
decreased over hospital stay without intervention. Completely 
weaned from O2 by discharge. Pt improved with one 20 mg dose of 
Lasix, so possibly developed some pulmonary edema. He also has 
COPD at baseline. Found to have ground glass opacities in upper 
right lobe.  Possibly due to COPD which was treated with home 
inhalers. Also possibilty of aspiration pneumonitis as above.

#  Transaminitis: appeared at OSH while admitted; possibly 
medication induced or related to current overall process. 
Improved over hospital course.

# Gait difficulty: On last two days before discharge, pt worked 
with ___ in multiple sessions to get ready to go home. He was 
cleared by them to return home with a walker and with his wife 
as a caretaker to help him.

# Hypotension: Experienced one episode of hypotension to 
80's/40's during last ___ session on day of discharge. Quickly 
resolved spontaneously, but we also decreased Losartan to 50 mg 
qd and discontinued Felodipine.

CHRONIC ISSUES:
#CKD: ___ from ATN at OSH resolved on admission. restarted home 
losartan and diuretics.

# Non-ischemic cardiomyopathy: continued coreg, ASA; restarted 
home losartan and Lasix.

#HTN: Holding Felodipine and decreased Losartan to 50 mg qd on 
discharge due to one episode of hypotension to ___s/___s during 
___ session on day of discharge. 
#Gout: restarted  allopurinol ___ mg po daily.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO QHS 
2. Losartan Potassium 100 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Felodipine 10 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Aspirin 81 mg PO DAILY 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Vancomycin Oral Liquid ___ mg PO Q6H 
9. Vitamin D 1000 UNIT PO DAILY 
10. Fluoxetine 20 mg PO DAILY 
11. Vitamin E 400 UNIT PO DAILY 
12. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
wheezing 
13. Levothyroxine Sodium 125 mcg PO DAILY 
14. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1. Rolling walker
Duration: 13 months
ICD9 code: ___.2 gait instability
___ ___
2. Allopurinol ___ mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Losartan Potassium 50 mg PO DAILY 
RX *losartan 50 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3
6. Vitamin D 1000 UNIT PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 
8. vancomycin 125 mg oral Q6H 
Please continue this medication until ___. 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*32 Capsule Refills:*0
9. Carvedilol 25 mg PO BID 
10. Fluoxetine 20 mg PO DAILY 
11. Fluticasone Propionate 110mcg 2 PUFF IH BID 
12. Furosemide 40 mg PO DAILY 
13. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
wheezing 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fevers
CDiff infection
Elevated transaminases
leukocytosis
Hypotension
Hypoxia
___

Secondary:
Arrhythmia
non-ischemic CM
HTN
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for fevers, nausea/vomiting, 
elevated liver tests, and C Diff intestinal infection. Most 
likley, the cause of you initial fevers was due to the cat and 
dog bite that you suffered prior to coming in. Your fevers 
improved without antibiotics, and your blood cultures never 
identified an infectious source. You were treated with 
Vancomycin by mouth which is for the C Diff infection as well. 
In your last four days here, you did not have a fever and you 
did quite well. You were evaluated by physical therapy and they 
worked with you during your last two days here. You were having 
some trouble walking by yourself but seemed to improve with 
their sessions, so you were deemed safe to go home. On your 
final day, your blood pressure dropped a little bit while 
walking with the physical therapy. However, you felt fine and 
your blood pressure improved quickly, so we decreased the dose 
of Losartan (now on 50 mg daily) and discontinued the Felodipine 
to help keep your blood pressure normal. It is very important 
that you see your PCP ___ 1:45 on ___ to follow up on these 
issues. It was a pleasure taking care of you. Thanks!

All the best,
Your care team at ___
 
Followup Instructions:
___